US03932499
The starting material was prepared as follows. 2,4-Difluoroaniline and butyl nitrite were reacted with benzene in a modified Gomberg reaction to give 2,4-difluorobiphenyl, m.p. 63°-65°C. which was reacted with acetyl chloride in a Friedel-Crafts reaction to give 4-acetyl-2',4'-difluorobiphenyl, m.p. 82.5°-83.5°C. This was subjected to the Willgerodt reaction using morpholine and sulphur, followed by hydrolysis, to give 2',4'-difluoro-4-biphenylylacetic acid, m.p. 143°-145°C., which was esterified to give ethyl 2',4'-difluoro-4-biphenylylacetate, b.p. 129°-130°C./0.2 mm. This ester was treated conventionally with diethyl carbonate, and then with dimethyl sulphate, to yield the required ethyl 2-(2',4'-difluoro-4-biphenylyl)-2-methylmalonate, b.p. 172°-175°C./0.5 mm.

reactant | 2,4-Difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | butyl nitrite | N(=O)OCCCC | C4H9NO2
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 2,4-difluorobiphenyl | FC1=C(C=CC(=C1)F)C1=CC=CC=C1 | C12H8F2
